US05223498
Reaction of 6-methyl-2-morpholinoaniline (9.6 g) in dioxan (25 ml) and water (100 ml) with thiophosgene (5.7 ml) at 0° C. for 30 minutes and at room temperature for 3 hours gave 6-methyl-2-morpholinophenyl isothiocyanate as an oil.

reactant | 6-methyl-2-morpholinoaniline | 9.6 g | CC1=CC=CC(=C1N)N1CCOCC1 | C11H16N2O
reactant | thiophosgene | 5.7 ml | C(=S)(Cl)Cl | CCl2S
solvent | dioxan | 25 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 6-methyl-2-morpholinophenyl isothiocyanate | CC1=CC=CC(=C1N=C=S)N1CCOCC1 | C12H14N2OS
